US08293768B2
Synthesis of 2-(4-(4-methyl-5-(pyridin-3-ylmethylcarbamoyl)thiazol-2-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl 4-fluorobenzylcarbamate
To the solution of 2-(4-(4-methyl-5-(pyridin-3-ylmethylcarbamoyl)thiazol-2-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl methanesulfonate (0.40 g, 0.91 mmol) in anhydrous tetrahydrofuran (10 mL) was added potassium carbonate (0.32 g, 2.28 mmol). The reaction mixture was stirred at ambient temperature for 1 minute, followed by the addition of (4-fluorophenyl)methanamine (0.10 mL, 0.91 mmol). The reaction mixture was stirred at ambient temperature for 17 hours, and then partitioned between ethyl acetate and brine. The organic layer was separated, washed with brine, dried over anhydrous sodium sulphate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with ethyl acetate to afford the title compound as a white solid in 77% yield (0.36 g): mp 149-150° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 8.58 (br s, 1H), 8.49 (br s, 1H), 8.22 (s, 1H), 7.72-7.64 (m, 1H), 7.31-7.14 (m, 3H), 7.00-6.89 (m, 2H), 6.54 (t, J=5.8 Hz, 1H), 5.33 (t, J=5.9 Hz, 1H), 4.59 (d, J=5.8 Hz, 2H), 4.38 (t, J=5.1 Hz, 2H), 4.25 (d, J=5.9 Hz, 2H), 4.06 (t, J=5.1 Hz, 2H), 2.62 (s, 3H); MS (ES+) m/z 512.4 (M+1).

reactant | 2-(4-(4-methyl-5-(pyridin-3-ylmethylcarbamoyl)thiazol-2-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl methanesulfonate | 0.91 mmol, 0.40 g | CS(=O)(=O)OCCN1N=CN(C1=O)C=1SC(=C(N1)C)C(NCC=1C=NC=CC1)=O | C16H18N6O5S2
reactant | potassium carbonate | 2.28 mmol, 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | (4-fluorophenyl)methanamine | 0.91 mmol, 0.10 mL | FC1=CC=C(C=C1)CN | C7H8FN
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(4-(4-methyl-5-(pyridin-3-ylmethylcarbamoyl)thiazol-2-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl 4-fluorobenzylcarbamate | 77% yield | FC1=CC=C(CNC(OCCN2N=CN(C2=O)C=2SC(=C(N2)C)C(NCC=2C=NC=CC2)=O)=O)C=C1 | C23H22FN7O4S
